US06544980B2
4.1 Synthesis of 2-(4-(2-bromo-6-phthalimidohexanoyl-amino)-3-oxo-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl)-3-phenyl-propionic acid, N-methyl amide
Prepare by the method of Example 3.1 using 2-(4-amino-3-oxo-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl)-3-phenyl-propionic acid, N-methyl amide and 2-bromo-6-phthalimidohexanoic acid to give the title compound.

reactant | 2-(4-amino-3-oxo-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl)-3-phenyl-propionic acid, N-methyl amide | CNC(C(CC1=CC=CC=C1)N1CC2=C(CC(C1=O)N)C=CC=C2)=O | C20H23N3O2
reactant | 2-bromo-6-phthalimidohexanoic acid | BrC(C(=O)O)CCCCN1C(C=2C(C1=O)=CC=CC2)=O | C14H14BrNO4
product | 2-(4-(2-bromo-6-phthalimidohexanoyl-amino)-3-oxo-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl)-3-phenyl-propionic acid, N-methyl amide | CNC(C(CC1=CC=CC=C1)N1CC2=C(CC(C1=O)NC(C(CCCCN1C(C=3C(C1=O)=CC=CC3)=O)Br)=O)C=CC=C2)=O | C34H35BrN4O5
